**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  High Frequency SMT Inductor
* Matchcode:              WE-GFH
* Library Type:           LTspice
* Version:                rev24a
* Created/modified by:    Ella
* Date and Time:          7/12/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************
.subckt 2520_7447629010_1u 1 2
Rp 1 2 4462
Cp 1 2 0.27712p
Rs 1 N3 0.335
L1 N3 2 0.957135u
.ends 2520_7447629010_1u
*******
.subckt 2520_7447629015_1.5u 1 2
Rp 1 2 2760
Cp 1 2 0.83938p
Rs 1 N3 0.393
L1 N3 2 0.60717u
.ends 2520_7447629015_1.5u
*******
.subckt 2520_7447629022_2.2u 1 2
Rp 1 2 3400
Cp 1 2 2.02p
Rs 1 N3 0.51
L1 N3 2 1.01u
.ends 2520_7447629022_2.2u
*******
.subckt 2520_7447629033_3.3u 1 2
Rp 1 2 4710
Cp 1 2 2.17p
Rs 1 N3 0.625
L1 N3 2 1.5u
.ends 2520_7447629033_3.3u
*******
.subckt 2520_7447629047_4.7u 1 2
Rp 1 2 5870
Cp 1 2 2.23p
Rs 1 N3 0.75
L1 N3 2 2.12u
.ends 2520_7447629047_4.7u
*******
.subckt 2520_7447629068_6.8u 1 2
Rp 1 2 7810
Cp 1 2 2.01p
Rs 1 N3 0.96
L1 N3 2 3.12u
.ends 2520_7447629068_6.8u
*******
.subckt 2520_7447629100_10u 1 2
Rp 1 2 9460
Cp 1 2 2.63p
Rs 1 N3 1.7
L1 N3 2 4.67u
.ends 2520_7447629100_10u
*******
.subckt 2520_7447629150_15u 1 2
Rp 1 2 13010
Cp 1 2 2.87p
Rs 1 N3 2.11
L1 N3 2 7.09u
.ends 2520_7447629150_15u
*******
.subckt 2520_7447629220_22u 1 2
Rp 1 2 16210
Cp 1 2 2.66p
Rs 1 N3 2.762
L1 N3 2 10.6u
.ends 2520_7447629220_22u
*******
.subckt 2520_7447629330_33u 1 2
Rp 1 2 21670
Cp 1 2 2.55p
Rs 1 N3 4.3
L1 N3 2 15.99u
.ends 2520_7447629330_33u
*******
.subckt 3225_744764901_1u 1 2
Rp 1 2 2990
Cp 1 2 0.7416p
Rs 1 N3 0.1404
L1 N3 2 0.88899u
.ends 3225_744764901_1u
*******
.subckt 3225_7447649015_1.5u 1 2
Rp 1 2 3794
Cp 1 2 1.236p
Rs 1 N3 0.1755
L1 N3 2 1.485u
.ends 3225_7447649015_1.5u
*******
.subckt 3225_744764902_2.2u 1 2
Rp 1 2 6500
Cp 1 2 1.3p
Rs 1 N3 0.234
L1 N3 2 2.4u
.ends 3225_744764902_2.2u
*******
.subckt 3225_744764903_3.3u 1 2
Rp 1 2 8430
Cp 1 2 1.39p
Rs 1 N3 0.2925
L1 N3 2 3.03u
.ends 3225_744764903_3.3u
*******
.subckt 3225_744764904_4.7u 1 2
Rp 1 2 9650
Cp 1 2 1.42p
Rs 1 N3 0.468
L1 N3 2 4.34u
.ends 3225_744764904_4.7u
*******
.subckt 3225_744764910_10u 1 2
Rp 1 2 17136
Cp 1 2 1.827p
Rs 1 N3 0.9945
L1 N3 2 10.149u
.ends 3225_744764910_10u
*******
.subckt 3225_7447649115_15u 1 2
Rp 1 2 17547
Cp 1 2 1.636p
Rs 1 N3 1.521
L1 N3 2 15.834u
.ends 3225_7447649115_15u
*******
.subckt 3225_7447649122_22u 1 2
Rp 1 2 27960
Cp 1 2 1.6p
Rs 1 N3 2.34
L1 N3 2 21.05u
.ends 3225_7447649122_22u
*******
.subckt 3225_7447649133_33u 1 2
Rp 1 2 38610
Cp 1 2 1.78p
Rs 1 N3 3.276
L1 N3 2 32.21u
.ends 3225_7447649133_33u
*******
.subckt 3225_7447649147_47u 1 2
Rp 1 2 45099
Cp 1 2 1.512p
Rs 1 N3 4.914
L1 N3 2 47.231u
.ends 3225_7447649147_47u
*******
.subckt 3225_7447649168_68u 1 2
Rp 1 2 308210
Cp 1 2 1.7p
Rs 1 N3 7.605
L1 N3 2 67.53u
.ends 3225_7447649168_68u
*******
.subckt 3225_744764920_100u 1 2
Rp 1 2 76241
Cp 1 2 1.974p
Rs 1 N3 9.126
L1 N3 2 100.01u
.ends 3225_744764920_100u
*******
.subckt 4532_744766901_1u 1 2
Rp 1 2 3150
Cp 1 2 0.40913p
Rs 1 N3 0.081
L1 N3 2 0.92673u
.ends 4532_744766901_1u
*******
.subckt 4532_7447669012_1.2u 1 2
Rp 1 2 3720
Cp 1 2 0.72883p
Rs 1 N3 0.093
L1 N3 2 1.08u
.ends 4532_7447669012_1.2u
*******
.subckt 4532_744766902_2.2u 1 2
Rp 1 2 4089
Cp 1 2 1.738p
Rs 1 N3 0.144
L1 N3 2 2.159u
.ends 4532_744766902_2.2u
*******
.subckt 4532_744766903_3.3u 1 2
Rp 1 2 6320
Cp 1 2 2.28p
Rs 1 N3 0.178
L1 N3 2 3.03u
.ends 4532_744766903_3.3u
*******
.subckt 4532_7447669039_3.9u 1 2
Rp 1 2 7957
Cp 1 2 1.93p
Rs 1 N3 0.2
L1 N3 2 3.785u
.ends 4532_7447669039_3.9u
*******
.subckt 4532_744766904_4.7u 1 2
Rp 1 2 9200
Cp 1 2 2.09p
Rs 1 N3 0.215
L1 N3 2 4.42u
.ends 4532_744766904_4.7u
*******
.subckt 4532_744766906_6.8u 1 2
Rp 1 2 13010
Cp 1 2 2.15p
Rs 1 N3 0.271
L1 N3 2 6.39u
.ends 4532_744766906_6.8u
*******
.subckt 4532_744766910_10u 1 2
Rp 1 2 18150
Cp 1 2 2.1p
Rs 1 N3 0.405
L1 N3 2 9.7u
.ends 4532_744766910_10u
*******
.subckt 4532_7447669112_12u 1 2
Rp 1 2 19680
Cp 1 2 2.23p
Rs 1 N3 0.444
L1 N3 2 11.71u
.ends 4532_7447669112_12u
*******
.subckt 4532_7447669115_15u 1 2
Rp 1 2 24770
Cp 1 2 2.47p
Rs 1 N3 0.511
L1 N3 2 14.32u
.ends 4532_7447669115_15u
*******
.subckt 4532_7447669118_18u 1 2
Rp 1 2 33970
Cp 1 2 2.66p
Rs 1 N3 0.654
L1 N3 2 17.48u
.ends 4532_7447669118_18u
*******
.subckt 4532_7447669122_22u 1 2
Rp 1 2 41110
Cp 1 2 2.31p
Rs 1 N3 0.767
L1 N3 2 21.01u
.ends 4532_7447669122_22u
*******
.subckt 4532_7447669127_27u 1 2
Rp 1 2 49450
Cp 1 2 2.54p
Rs 1 N3 0.849
L1 N3 2 24.98u
.ends 4532_7447669127_27u
*******
.subckt 4532_7447669133_33u 1 2
Rp 1 2 38959
Cp 1 2 2.331p
Rs 1 N3 1.03
L1 N3 2 33.045u
.ends 4532_7447669133_33u
*******
.subckt 4532_7447669139_39u 1 2
Rp 1 2 29162
Cp 1 2 3.042p
Rs 1 N3 1.32
L1 N3 2 38.413u
.ends 4532_7447669139_39u
*******
.subckt 4532_7447669147_47u 1 2
Rp 1 2 97790
Cp 1 2 2.37p
Rs 1 N3 1.46
L1 N3 2 44.81u
.ends 4532_7447669147_47u
*******
.subckt 4532_7447669156_56u 1 2
Rp 1 2 132740
Cp 1 2 2.43p
Rs 1 N3 1.94
L1 N3 2 53.31u
.ends 4532_7447669156_56u
*******
.subckt 4532_7447669168_68u 1 2
Rp 1 2 148060
Cp 1 2 2.52p
Rs 1 N3 2.195
L1 N3 2 63.13u
.ends 4532_7447669168_68u
*******
.subckt 4532_7447669182_82u 1 2
Rp 1 2 247300
Cp 1 2 2.55p
Rs 1 N3 3.11
L1 N3 2 78.46u
.ends 4532_7447669182_82u
*******
.subckt 4532_744766920_100u 1 2
Rp 1 2 360130
Cp 1 2 2.44p
Rs 1 N3 3.56
L1 N3 2 105.88u
.ends 4532_744766920_100u
*******
.subckt 4532_7447669212_120u 1 2
Rp 1 2 288540
Cp 1 2 2.53p
Rs 1 N3 4.185
L1 N3 2 124.04u
.ends 4532_7447669212_120u
*******
.subckt 4532_7447669218_180u 1 2
Rp 1 2 266510
Cp 1 2 2.69p
Rs 1 N3 6.15
L1 N3 2 193.86u
.ends 4532_7447669218_180u
*******
.subckt 4532_7447669220_220u 1 2
Rp 1 2 203770
Cp 1 2 2.56p
Rs 1 N3 6.94
L1 N3 2 233.24u
.ends 4532_7447669220_220u
*******
